US09403798B2
1-(4-Chlorobenzyl)-4-[4-(4-fluorobenzoyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one
To an N,N-dimethylformamide solution (1 mL) of 1-(4-chlorobenzyl)-4-(piperazin-1-yl)-1,3,5-triazin-2(1H)-one (31 mg, 0.10 mmol) synthesized in Reference Synthesis Example 9, triethylamine (28 μL, 0.20 mmol) and 4-fluorobenzoyl chloride (18 μL, 0.15 mmol) were added at room temperature and the resultant mixture was stirred at room temperature for 4 hours. After the completion of the reaction, saturated ammonium chloride aqueous solution was added to the reaction solution and extraction with ethyl acetate from the resultant reaction solution was performed. The organic layer was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/4→0/1 (v/v)) to obtain the title compound (27 mg, yield: 63%).

reactant | 1-(4-chlorobenzyl)-4-(piperazin-1-yl)-1,3,5-triazin-2(1H)-one | 0.10 mmol, 31 mg | ClC1=CC=C(CN2C(N=C(N=C2)N2CCNCC2)=O)C=C1 | C14H16ClN5O
reactant | triethylamine | 0.20 mmol, 28 μL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.15 mmol, 18 μL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(4-Chlorobenzyl)-4-[4-(4-fluorobenzoyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 27 mg, yield: 63% | ClC1=CC=C(CN2C(N=C(N=C2)N2CCN(CC2)C(C2=CC=C(C=C2)F)=O)=O)C=C1 | C21H19ClFN5O2
